US08304419B2
Step E: 3-Chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N5-(2-hydroxyethyl)-1H-pyrrole-2,5-dicarboxamide
HATU (0.061 g, 0.161 mmol) was added to a DMF (2 mL) solution of 3-chloro-5-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylic acid (0.037 g, 0.161 mmol), 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol), and DIPEA (0.028 mL, 0.161 mmol). This solution was stirred overnight at RT. The reaction mixture was partitioned between water and EtOAc. The organic layer was washed with a 15% solution of Na2CO3, dried over MgSO4, filtered and evaporated. The residue was subjected to silica gel column chromatography (EtOAc/hexanes) to afford an impure solid. A second purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.014 g, 15%) as a white solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 11.00 (br. s., 1H), 7.86 (d, 1H), 7.63 (s, 1H), 7.33-7.52 (m, 3H), 6.86 (d, 1H), 4.71 (d, 1H), 3.65 (t, 1H), 3.39-3.57 (m, 5H). LCMS: m/z 525.3 (M+1).

reactant | HATU | 0.161 mmol, 0.061 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloro-5-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylic acid | 0.161 mmol, 0.037 g | ClC1=C(NC(=C1)C(=O)NCCO)C(=O)O | C8H9ClN2O4
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.161 mmol, 0.028 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N5-(2-hydroxyethyl)-1H-pyrrole-2,5-dicarboxamide | 0.014 g, 15% | ClC1=C(NC(=C1)C(=O)NCCO)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C22H16Cl3FN4O4
